US08686189B2
t-Butyl{(1R,2R,5S)-2-azido-5-[(dimethylamino)carbonyl]cyclohexyl}carbamate
Sodium azide (7.14 g) and dodecylpyridinium chloride (7.80 g) were added at room temperature to a solution (40 mL) of (1R,2R,4S)-2-[(t-butoxycarbonyl)amino]-4-[(dimethylamino)carbonyl]cyclohexylmethanesulfonate (20.0 g) in N,N-dimethylacetamide (DMAC), followed by stirring at 60° C. for 72 hours. Water and ethyl acetate were added to the reaction mixture, and the organic layer was washed with aqueous saturated sodium bicarbonate solution and water. The solvent was evaporated under reduced pressure, and a solvent mixture (300 mL) of n-hexane and ethyl acetate (5:1) was added to the residue. The mixture was stirred at room temperature for 1 hour, and the formed crystals were recovered by filtration. A solvent mixture (300 mL) of n-hexane and ethyl acetate (5:1) was added to the recovered crystals, followed by stirring/recovering by filtration twice, to thereby yield 4.6 g of the title compound.

reactant | Sodium azide | 7.14 g | [N-]=[N+]=[N-].[Na+]
reactant | dodecylpyridinium chloride | 7.80 g | [Cl-].C(CCCCCCCCCCC)[N+]1=CC=CC=C1
reactant | (1R,2R,4S)-2-[(t-butoxycarbonyl)amino]-4-[(dimethylamino)carbonyl]cyclohexylmethanesulfonate | 40 mL, 20.0 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC[C@@H](C1)C(=O)N(C)C)CS(=O)(=O)[O-]
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-Butyl{(1R,2R,5S)-2-azido-5-[(dimethylamino)carbonyl]cyclohexyl}carbamate | C(C)(C)(C)OC(N[C@H]1[C@@H](CC[C@@H](C1)C(=O)N(C)C)N=[N+]=[N-])=O | C14H25N5O3
